datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:18][H:21],28.267104
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26]([H:29])([H:30])[H:31])([H:27])[H:28]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25]([C:26]([H:29])([H:30])[H:31])([H:27])[H:28])([H:11])([H:12])[H:13],24.9366
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14]([H:15])[H:16],20.5434
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([O:7])([H:8])([H:9])[H:10]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][O:7][C:6]([H:8])([H:9])[H:10],-1.96648
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][O:10]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][O:9][O:10],260.53768
[C:0]([S:1][C:2](=[S:3])[H:6])([H:4])[H:5]>>[C:0]([S:1][C:2]=[S:3])([H:4])([H:5])[H:6],80.08176
[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6]>>[C:0]([C:1]#[N:2])([H:4])[H:5].[H:3][H:6],35.656048
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[S:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:13])[H:6].[C:11](=[S:12])[H:14],92.048
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11](=[S:12])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:13])[H:5].[C:10]([C:11](=[S:12])[H:16])([H:14])[H:15],76.5672
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])[H:27])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:23]([C:22](=[C:21]([H:25])[H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])[H:11],52.7602
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:20]([C:19](=[C:18]([H:22])[H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:10])([H:8])[H:9],36.359
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:26])([H:27])[H:28])=[C:16]([c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:29])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:23])[H:24])[H:25])([C:15]([H:26])([H:27])[H:28])[C:16]([c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:29])[H:5],39.0786
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:27])[H:28])[H:26])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[C:29](=[O:30])[H:31]>>[C-:29]#[O+:30].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:27])[H:28])[H:26])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:31],0.0
[O:0]([H:1])[H:2].[O:3][O:4]>>[H:1][O:3][O:4].[O:0][H:2],310.118
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])([S:8][H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[S:3])[H:12])[H:4].[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])[S:8][H:16])([H:9])([H:10])[H:11],66.5256
[C:0](=[C:1]([S:2][C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1][H:6])([H:4])[H:5].[S:2]([C:3]([H:7])([H:8])[H:9])[H:10],34.3088
[H:5].[O:0]=[N+:1]([O-:2])[O:3][H:4]>>[H:4][H:5].[O:0]=[N+:1]([O-:2])[O:3],68.6176
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21])[H:7])([H:5])[H:6],44.8525
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](#[C:12][C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12]#[C:11][H:14])([H:15])[H:16],15.8992
